US07534797B2
{3-[8-Chloro-1-(2-phenylquinolin-7-yl)-imidazo[1,5-a]pyrazin-3-yl]-cyclobutyl}-methanol
To a solution of 7-[8-chloro-3-(3-methylenecyclobutyl)-imidazo[1,5-a]pyrazin-1-yl]-2-phenylquinoline (338 mg, 0.8 mmol) in dry THF (5 mL) was added 9-BBN (2.4 mL, 1.2 mmol, 0.5M in THF) dropwise at 0° C. under nitrogen atmosphere. The temperature was slowly warmed to rt overnight. The mixture was cooled to 0° C., and 3 mL 1N aq. NaOH and 0.6 mL 30% aq. H2O2 were added, the resulting mixture was stirred at 0° C. for 10 min, then rt for 30 min. The mixture was diluted with methylene chloride (30 mL), washed with brine (2×20 mL), and dried over anhydrous sodium sulfate. The filtrate was concentrated under reduced pressure, and the crude material was purified by silica gel column chromatography (eluting with hexanes:EtOAc=50:50→100% ethyl acetate), to obtain the title compound as a yellow solid, a mixture of cis and trans isomers in the ratio of 5:1; MS (ES+): m/z 441/443 (3/1) [MH+]; 1H NMR (CDCl3, 400MHz) δ 2.44-2.64 (m, 6H), 3.65-3.76 (m, 3H), 7.31, 7.33 (2×d, J=5.0 Hz, 1H, 1:5 ratio), 7.39-7.57 (m, 4H), 7.86-7.98 (m, 3H), 8.18 (m, 2H), 8.26 (d, J=8.6 Hz, 1H), 8.51, 8.53 (2×s, 1H, 5:1 ratio).

reactant | 7-[8-chloro-3-(3-methylenecyclobutyl)-imidazo[1,5-a]pyrazin-1-yl]-2-phenylquinoline | 0.8 mmol, 338 mg | ClC=1C=2N(C=CN1)C(=NC2C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2)C2CC(C2)=C | C26H19ClN4
reactant | 9-BBN | 1.2 mmol, 0.5M, 2.4 mL | B1C2CCCC1CCC2 | C8H15B
reactant | NaOH | 1N, 3 mL | [OH-].[Na+]
reactant | H2O2 | 0.6 mL | OO | H2O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | {3-[8-Chloro-1-(2-phenylquinolin-7-yl)-imidazo[1,5-a]pyrazin-3-yl]-cyclobutyl}-methanol | ClC=1C=2N(C=CN1)C(=NC2C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2)C2CC(C2)CO | C26H21ClN4O
